US04775677
[4-Oxo-3-(4-methoxyphenyl)-2-[(4-methoxyphenyl)imino]-5-thiazolidinylidene]acetic acid
Prepared by the method described in Example 1 from N,N'-bis(4-methoxyphenyl)thiourea (11.5 g, 40 mmoles) and acetylenedicarboxylic acid (4.6 g, 40 mmoles). Recrystallization from methanol gave the product (10.1 g), mp 184°-187° C.

reactant | N,N'-bis(4-methoxyphenyl)thiourea | 40 mmoles, 11.5 g | COC1=CC=C(C=C1)NC(=S)NC1=CC=C(C=C1)OC | C15H16N2O2S
reactant | acetylenedicarboxylic acid | 40 mmoles, 4.6 g | C(#CC(=O)O)C(=O)O | C4H2O4
product | [4-Oxo-3-(4-methoxyphenyl)-2-[(4-methoxyphenyl)imino]-5-thiazolidinylidene]acetic acid | 10.1 g | O=C1N(C(SC1=CC(=O)O)=NC1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C19H16N2O5S
